US08633186B2
2-(3-hydroxypropoxy)-6-nitrobenzonitrile
Prepared as in Example 215c from propane-1,3-diol and 2,6-dinitrobenzonitrile in 61% yield as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 1.89-1.93 (m, 2H), 3.56-3.61 (m, 2H), 4.30 (t, J=6.4 Hz, 2H), 4.61 (t, J=5.2 Hz, 1H), 7.71-7.74 (m, 1H), 7.85-7.91 (m, 2H).

reactant | propane-1,3-diol | C(CCO)O | C3H8O2
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(3-hydroxypropoxy)-6-nitrobenzonitrile | 61% yield | OCCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C10H10N2O4
